US06878722B2
Step 78b: 7-Methoxy-2-pyridin-2-yl-quinolin-4-ol
To a suspension suspension of Pyridine-2-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide (2.90 g, 10.7 mmol) in THF (50 mL) was added t-BuOK/THF (1M, 24 mL, 24 mmol). The reaction mixture was heated at 70° C. for 3 h and stirred overnite. The solvent was removed the in vacuo. Cold water was added to the residue and adjusted pH to 4.6 with aqueous 1.0 N HCl, filtered. The solid residue was purified over a Biotage 65M column (MeOH/CH2Cl2: 0 to 15%) to provide the product (2.26 g, 84%): LC-MS (retention time: 1.19, Method D), MS m/z 253 (M++1).

reactant | Pyridine-2-carboxylic acid (2-acetyl-5-methoxy-phenyl)-amide | 10.7 mmol, 2.90 g | C(C)(=O)C1=C(C=C(C=C1)OC)NC(=O)C1=NC=CC=C1 | C15H14N2O3
reactant | t-BuOK THF | 24 mmol, 1M, 24 mL | CC(C)(C)[O-].[K+].C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-Methoxy-2-pyridin-2-yl-quinolin-4-ol | 2.26 g, 84% | COC1=CC=C2C(=CC(=NC2=C1)C1=NC=CC=C1)O | C15H12N2O2
